US06313351B1
The process described in Japanese Patent Laid-Open Publication No. 59742/1992, however, has a problem of using expensive alicyclic diol. If 2,2-bis(4-hydroxyphenyl)propane that is relatively inexpensive is used as a starting material, reactions of two steps, namely, hydrogenation reaction of 2,2-bis(4-hydroxyphenyl)propane and oxidation reaction of 2,2-bis(4-hydroxycyclohexyl)propane obtained by the hydrogenation reaction, must be conducted to produce 2,2-bis(4-oxocyclohexyl)propane, so that the process becomes complicated.

reactant | 2,2-bis(4-hydroxyphenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | 2,2-bis(4-hydroxycyclohexyl)propane | OC1CCC(CC1)C(C)(C)C1CCC(CC1)O | C15H28O2
product | 2,2-bis(4-oxocyclohexyl)propane | O=C1CCC(CC1)C(C)(C)C1CCC(CC1)=O | C15H24O2
